US07517532B2
2-(3-Chloro4-fluorobenzyl)-8,9-dihydroxy-7-(piperidin-1-ylmethyl)-3,4dihydro-2H-pyrido[1,2-a]pyrazine-1,6dione
The title compound was prepared using a procedure similar to that described in Example 11, except that 2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione was substituted with 2-(3-chloro4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione.

reactant | 2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | FC1=CC=C(CN2C(C=3N(CC2)C(C=C(C3O)O)=O)=O)C=C1 | C15H13FN2O4
reactant | 2-(3-chloro4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | ClC=1C=C(CN2C(C=3N(CC2)C(C=C(C3O)O)=O)=O)C=CC1F | C15H12ClFN2O4
product | 2-(3-Chloro4-fluorobenzyl)-8,9-dihydroxy-7-(piperidin-1-ylmethyl)-3,4dihydro-2H-pyrido[1,2-a]pyrazine-1,6dione | ClC=1C=C(CN2C(C=3N(CC2)C(C(=C(C3O)O)CN3CCCCC3)=O)=O)C=CC1F | C21H23ClFN3O4
